US08114868B2
To a solution of compound 3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxy-3-methylbutyl)-6-isopropyl-1,3-oxazinan-2-one (105 mg, 0.255 mmol) in DMSO (8 mL) was added compound 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (198.5 mg, 0.781 mmol), KOAc (351.6 mg, 3.587 mmol), and Pd(dppf)Cl2 (21.9 mg, 0.027 mmol) under N2. The reaction mixture was stirred at 90° C. for 3.5 h added H2O, and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4, concentrated, and purified by preparative TLC to give the two isomers of 6-(3-hydroxy-3-methylbutyl)-6-isopropyl-3-((S)-1-(4-(4,4,5,5-tetramethyl -1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one

reactant | 3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxy-3-methylbutyl)-6-isopropyl-1,3-oxazinan-2-one | 0.255 mmol, 105 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(OC(CC1)(C(C)C)CCC(C)(C)O)=O | C20H30BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.781 mmol, 198.5 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3.587 mmol, 351.6 mg | CC(=O)[O-].[K+]
reactant | H2O | O | H2O
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.027 mmol, 21.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(3-hydroxy-3-methylbutyl)-6-isopropyl-3-((S)-1-(4-(4,4,5,5-tetramethyl -1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | OC(CCC1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(C)C)(C)C | C26H42BNO5
